US04294843
A solution of ethyl chloroformate (0.55 g) in benzene (10 ml) was added dropwise to a solution of 3-(2-aminophenylthiomethyl)-1,2,4-oxadiazole (2.07 g) in benzene (10 ml). The reaction mixture was then stirred for 2 days, filtered and the filtrate evaporated under reduced pressure to give an oil which crystallised on standing. Re-crystallisation from isopropanol gave 3-(2-ethoxycarbonylaminophenylthiomethyl)-1,2,4-oxadiazole, m.p. 55°.

reactant | ethyl chloroformate | 0.55 g | ClC(=O)OCC | C3H5ClO2
reactant | 3-(2-aminophenylthiomethyl)-1,2,4-oxadiazole | 2.07 g | NC1=C(C=CC=C1)SCC1=NOC=N1 | C9H9N3OS
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 3-(2-ethoxycarbonylaminophenylthiomethyl)-1,2,4-oxadiazole | C(C)OC(=O)NC1=C(C=CC=C1)SCC1=NOC=N1 | C12H13N3O3S
